US07173129B2
4-{3E-[5-(1H-Indol-2-yl)-2,4-dimethoxyphenyl]acryloyl}-N,N-dimethylbenzenesulfonamide
The title compound was prepared in an analogous manner as Ex-1 using 5-(1H-indol-2-yl)-2,4-dimethoxybenzaldehye (Ex-32B) and 4-acetyl-N,N-dimethylbenzenesulfonamide (Ex-31A), 12% yield after silica gel column chromatography (hexane/EtOAc, 2:1), yellow solid, mp 158–162° C. 1H-NMR (300 MHz, CDCl3) δ 9.39 (br, 1H), 8.15 (m, 2H), 8.08 (d, J=9 Hz, 2H), 7.91 (d, J=9Hz, 2H), 7.64 (d, J=7 Hz, 1H), 7.57 (d, J=15 Hz, 1H), 7.42 (d, J=8 Hz, 1H), 7.09–7.21 (m, 2H), 6.87 (d, J=2Hz, 1H), 6.60 (s, 1H), 4.10 (s, 3H), 4.01 (s, 3H), 2.76 (s, 6H). HRMS (ESI) Calcd. for C27H26N2O5S: 491.1641 (M+H)+; Found: 491.1638.

reactant | 5-(1H-indol-2-yl)-2,4-dimethoxybenzaldehye | N1C(=CC2=CC=CC=C12)C=1C(=CC(=C(C=O)C1)OC)OC | C17H15NO3
reactant | 4-acetyl-N,N-dimethylbenzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N(C)C | C10H13NO3S
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | 4-{3E-[5-(1H-Indol-2-yl)-2,4-dimethoxyphenyl]acryloyl}-N,N-dimethylbenzenesulfonamide | 12% yield | N1C(=CC2=CC=CC=C12)C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)N(C)C)OC)OC | C27H26N2O5S
